US08703795B2
g) 4-Bromo-3-(4-fluoro-phenyl)-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid butyl ester
3-(4-Fluoro-phenyl)-4,7-dihydroxy-thieno[3,2-c]pyridine-6-carboxylic acid butyl ester (77.9 mg, 0.216 mmol), example 30-f, was suspended in 1.1 mL of anhydrous toluene. Phosphorous oxybromide (0.155 g, 0.539 mmol) was added, and the reaction mixture was heated at 120° C. for 20 min. using a CEM microwave reactor (CEM, Matthews, N.C.). The reaction mixture was diluted with ethyl acetate, and saturated sodium bicarbonate solution was then added. The biphasic mixture was stirred for 15 min. and separated to isolate the organic fraction. The organic fraction was washed with brine, dried over anhydrous sodium sulfate, and concentrated. The crude product was purified by column chromatography eluting from silica gel with dichloromethane to produce 51.2 mg of the title compound. MS: (−) m/z 422.1, 424.1 (M−1, 79Br/81Br).

reactant | 3-(4-Fluoro-phenyl)-4,7-dihydroxy-thieno[3,2-c]pyridine-6-carboxylic acid butyl ester | 0.216 mmol, 77.9 mg | C(CCC)OC(=O)C1=C(C2=C(C(=N1)O)C(=CS2)C2=CC=C(C=C2)F)O | C18H16FNO4S
reactant | Phosphorous oxybromide | 0.539 mmol, 0.155 g | P(=O)(Br)(Br)Br | Br3OP
solvent | toluene | 1.1 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-Bromo-3-(4-fluoro-phenyl)-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid butyl ester | 51.2 mg | C(CCC)OC(=O)C1=C(C2=C(C(=N1)Br)C(=CS2)C2=CC=C(C=C2)F)O | C18H15BrFNO3S
